US07115750B1
Benzyl 4-[[4-[2-[[2-(dimethylamino)ethyl]amino]-2-oxoethyl]anilino]carbonyl]-1-piperidinecarboxylate
2-(4-Aminophenyl)-N-[2-(dimethylamino)ethyl]acetamide (221 mg), WSC (249 mg), 1-hydroxybenzotriazole (199 mg), triethylamine (0.4 ml), and dimethylaminopyridine (244 mg) were added to a tetrahydrofuran (10 ml) solution of 1-[(benzyloxy)carbonyl]-4-piperidinecarboxylic acid (290 mg), which was stirred for 20 hours. The reaction mixture was poured into water, and extraction was conducted using ethyl acetate. The organic layer was washed with water, saturated aqueous sodium bicarbonate solution, and saturated aqueous sodium chloride solution, dried over sodium sulfate, and then concentrated. The residue was recrystallized from methanol-diisopropyl ether, to give the titled compound (230 mg).

reactant | 2-(4-Aminophenyl)-N-[2-(dimethylamino)ethyl]acetamide | 221 mg | NC1=CC=C(C=C1)CC(=O)NCCN(C)C | C12H19N3O
reactant | WSC | 249 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 199 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dimethylaminopyridine | 244 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 1-[(benzyloxy)carbonyl]-4-piperidinecarboxylic acid | 290 mg | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(=O)O | C14H17NO4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 0.4 ml | C(C)N(CC)CC | C6H15N
product | Benzyl 4-[[4-[2-[[2-(dimethylamino)ethyl]amino]-2-oxoethyl]anilino]carbonyl]-1-piperidinecarboxylate | 230 mg | CN(CCNC(CC1=CC=C(NC(=O)C2CCN(CC2)C(=O)OCC2=CC=CC=C2)C=C1)=O)C | C26H34N4O4
